US04931474
10 g of sodium hydroxide was dissolved in 20 ml of water, and then added with 2.0 g of 4-bromothiophenol, 0.5 g of tetrabutylammonium bromide, 3 ml of toluene and 3.3 g of 1-bromo-5(4-methyl-3-n-propylthiophenoxy)-n-pentane obtained by ◯1 , followed by drastic stirring at 80° to 90° C. for 4 hours. After cooling, the reaction solution was poured into 100 ml of water, and extracted two times by 150 ml of toluene. The toluene layer was washed with water and saturated solution of common salt, and distilled to remove the solvent. The obtained residue was purified by silica-gel column chromatography (developing solvents: toluene+n-hexane) to give 3.5 g (yield: 79.6%) of the intended 1-(4-bromophenylthio)-5-(4-methyl-3-n-propylthiophenoxy)-n-pentane as a colorless crystal. Furthermore, it was recrystallized by n-hexane to give m.p. 42° to 43° C.

reactant | sodium hydroxide | 10 g | [OH-].[Na+]
reactant | 4-bromothiophenol | 2.0 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
reactant | 1-bromo-5(4-methyl-3-n-propylthiophenoxy)-n-pentane | 3.3 g | BrCCCCCSC1=CC(=C(C=C1)C)CCC | C15H23BrS
solvent | water | 20 ml | O | H2O
catalyst | tetrabutylammonium bromide | 0.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 100 ml | O | H2O
product | 1-(4-bromophenylthio)-5-(4-methyl-3-n-propylthiophenoxy)-n-pentane | 3.5 g, yield: 79.6% | BrC1=CC=C(C=C1)SCCCCCSC1=CC(=C(C=C1)C)CCC | C21H27BrS2
